US05578724
(4aR)-(10bR)-8-chloro-4-propyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 2.35 g portion of (4aR)-(10bR)-8-chloro-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one was slurried in 40 mL of THF and 5 mL of 50% aqueous sodium hydroxide, and 3.4 g of propyl iodide was added. The mixture was heated to about 60° and the mixture was stirred at that temperature for about 22 hours. Workup was carried out by separating the organic layer and evaporating it to dryness, and adding water and ethyl acetate. The organic layer was separated, washed twice with water, dried, filtered and evaporated under vacuum to obtain 710 mg of white crystalline product, found to be of about 90% purity. It was then purified by silica gel flash chromatography, eluting with ethyl acetate, to obtain 510 mg of purified product, m.p. 110°-11° of 98.98% purity, by HPLC, eluting with 1.1 acetonitrile:aqueous buffer (5% ammonium acetate) and monitoring at 220 nanometers.

reactant | (4aR)-(10bR)-8-chloro-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | ClC1=CC2=C([C@H]3CCC(N[C@@H]3CC2)=O)C=C1 | C13H14ClNO
reactant | propyl iodide | 3.4 g | C(CC)I | C3H7I
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | sodium hydroxide | 5 mL | [OH-].[Na+]
product | (4aR)-(10bR)-8-chloro-4-propyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 710 mg | ClC1=CC2=C([C@H]3CCC(N([C@@H]3CC2)CCC)=O)C=C1 | C16H20ClNO
